US04552891
B. Preparation of β-(3,4-diethoxyphenyl)-α-mercaptoacrylic acid
A solution of 33.0 g. of 5-(3,4-diethoxybenzylidene)rhodanine and 23.4 g. of sodium hydroxide in 148 ml. of water was heated to 70° C. for 30 minutes. The solution was cooled and filtered and the filtrate was acidified by pouring into excess cold 10% hydrochloric acid. The precipitate was collected by filtration affording 25 g. of the desired subtitle intermediate which was used without further purification.

reactant | 5-(3,4-diethoxybenzylidene)rhodanine | C(C)OC=1C=C(C=C2C(NC(S2)=S)=O)C=CC1OCC | C14H15NO3S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | β-(3,4-diethoxyphenyl)-α-mercaptoacrylic acid | C(C)OC=1C=C(C=CC1OCC)C=C(C(=O)O)S | C13H16O4S
